US06849625B2
After repetition of the reaction so described, a mixture of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-3,4-dihydroquinazolin-4-one (20.3 g), thionyl chloride (440 ml) and DMF (1.75 ml) was heated to reflux for 4 hours. The thionyl chloride was evaporated under vacuum and the residue was azeotroped with toluene three times to give 7-benzyloxy-4-chloro-6-methoxyquinazoline.

reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin 3,4-dihydroquinazolin-4-one | 20.3 g | C(C1=CC=CC=C1)OC1=C(C=C2CNC=NC2=C1)OC.N1=CNC(C2=CC=CC=C12)=O
reactant | thionyl chloride | 440 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 1.75 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-chloro-6-methoxyquinazoline | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
